US07501427B2
2-(2-Chloro-4-nitro-phenoxymethyl)-thiazole is prepared by adding thiazol-2-yl-methanol (2.74 g, 23.76 mmol) to a slurry of sodium hydride (1.21 g of a 60% dispersion in oil, 30.2 mmol) in DMF (10 ml) at 0° C. After several minutes, 2-chloro-1-fluoro-4-nitro-benzene (3.79 g, 21.60 mmol) is added and the reaction mixture warmed to room temperature. The reaction mixture is stirred at room temperature for 3 h, and 60° C. for 16 h. After cooling to room temperature, the reaction mixture is poured into 200 ml water. The resulting precipitate is collected by filtration, washed with water, and dried in vacuo to give 2-(2-chloro-4-nitrophenoxymethyl)-thiazole (5.80 g, 99%) which is used without further purification .

reactant | thiazol-2-yl-methanol | 23.76 mmol, 2.74 g | S1C(=NC=C1)CO | C4H5NOS
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-1-fluoro-4-nitro-benzene | 21.60 mmol, 3.79 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | water | 200 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(2-chloro-4-nitrophenoxymethyl)-thiazole | 5.80 g, 99% | ClC1=C(OCC=2SC=CN2)C=CC(=C1)[N+](=O)[O-] | C10H7ClN2O3S
